US05872118
To a mixture of 3-(2-fluorophenyl)propionic acid (18.64 g, 0.111 mol) and dimethylformamide (5 drops) at room temperature was added dropwise oxalyl chloride (60 mL). The mixture was stirred at room temperature until gas evolution had ceased. The excess oxalyl chloride was removed by distillation to give 3-(2-fluorophenyl)propionyl chloride. A solution of the 3-(2-fluorophenyl)propionyl chloride in dichloromethane (230 mL) was added dropwise to a mixture of aluminum chloride (16.25 g, 0.12 mol) in dichloromethane (230 mL), and the mixture was refluxed for 3.5 h. The reaction mixture was poured into ice water (1200 mL), and the two phases were separated. The dichloromethane phase was washed successively with 0.1N aqueous sodium hydroxide (2×100 mL), water (200 mL), and brine (200 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The residual oil was chromatographed on silica gel eluting with hexane:dichloromethane (9:1) to give 11.0 g of crude 4-fluoro-1-indanone as a yellow solid. Recrystallization from acetone: water mixtures gave 8.02 g (48%) of 4-fluoro-1-indanone as a pale yellow solid: m.p., 71°-72° C.; NM (DMSO-d6): d 7.51 (m, 3H, Ar), 3.13 (t, 2H, CH2), 2.74 (t, 2H, CH2).

reactant | 3-(2-fluorophenyl)propionyl chloride | FC1=C(C=CC=C1)CCC(=O)Cl | C9H8ClFO
reactant | aluminum chloride | 0.12 mol, 16.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | 4-fluoro-1-indanone | 11.0 g | FC1=C2CCC(C2=CC=C1)=O | C9H7FO
